US07576095B2
Step 5 1-(2-Chlorophenylamino)-propan-2-one
A mixture of 2-chloroaniline (13.2 ml, 0.125 mol), iodoacetone (26.6 g, 0.145 mol) and potassium carbonate (18.1 g, 0.13 mol) in DMF (200 ml) was heated under nitrogen at 100° C. overnight. After cooling to rt, water was added and the mixture extracted with ether (×3). The combined organic extracts were washed with water, dried (Na2SO4), filtered and concentrated. Flash chromatography (Heptane:EtOAc 80:20) afforded 16.0 g (70%) of the title compound as a brown liquid.

reactant | 2-chloroaniline | 0.125 mol, 13.2 ml | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | iodoacetone | 0.145 mol, 26.6 g | ICC(C)=O | C3H5IO
reactant | potassium carbonate | 0.13 mol, 18.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 1-(2-Chlorophenylamino)-propan-2-one | 16.0 g, 70% | ClC1=C(C=CC=C1)NCC(C)=O | C9H10ClNO
